US07834063B2
N-{2-[[4-Cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]ethyl}benzamide
A solution of crude 4-[(2-aminoethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile (0.018 mg, 0.058 mmol) in CH2Cl2 (3 mL) was treated with TEA (0.0064 g, 0.063 mmol) and benzoyl chloride (0.0089 mg, 0.063 mmol) and stirred at rt for 1 h. The mixture was partitioned between EtOAc and 0.1N HCl. The organic phase was washed with 0.1N HCl and brine, dried (Na2SO4) and concentrated in vacuo. The residue was purified by silica gel chromatography (5-70% EtOAc/hexanes gradient) and the product crystallized from CH2Cl2/hexanes to give the title compound as a white solid (0.016 g, 66% yield): MS (ES) mlz 416 (M+1).

reactant | 4-[(2-aminoethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | 0.058 mmol, 0.018 mg | NCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C12H11F6N3
reactant | benzoyl chloride | 0.063 mmol, 0.0089 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | N-{2-[[4-Cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]ethyl}benzamide | 0.016 g, 66% yield | C(#N)C1=C(C=C(C=C1)N(CCNC(C1=CC=CC=C1)=O)CC(F)(F)F)C(F)(F)F | C19H15F6N3O
